US09233983B2
1-Boc-3-hydroxyazetidine (4.0 g, 23 mmol) was dissolved in DMF (30 mL) and cooled to 0° C. To this was added NaH (60% suspension, 0.83 g, 34 mmol) and it was stirred for 15 min. Finally, a solution of 5-bromo-2-iodopyridine (6.5 g, 23 mmol) in DMF (20 mL) was added to it and the reaction mixture was stirred at 70° C. for 5 h. It was, then, cooled to room temperature and diluted using EtOAc (200 mL). The organic layer was washed with water (150 mL×2), brine (150 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography (10% EtOAc in hexane) to provide Va-2-I (4.5 g, 59% yield). LCMS: m/z; 329.

reactant | 1-Boc-3-hydroxyazetidine | 23 mmol, 4.0 g | C(=O)(OC(C)(C)C)N1CC(C1)O | C8H15NO3
reactant | NaH | 34 mmol, 0.83 g | [H-].[Na+]
reactant | 5-bromo-2-iodopyridine | 23 mmol, 6.5 g | BrC=1C=CC(=NC1)I | C5H3BrIN
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-[(5-bromo-2-pyridyl)oxy]azetidine-1-carboxylate | 4.5 g, 59% yield | BrC=1C=CC(=NC1)OC1CN(C1)C(=O)OC(C)(C)C | C13H17BrN2O3
